US09382237B2
Dissolved malononitrile (3.328 g) in DMF (35 mL), added TEA (1 eq., 6.983 mL), and stirred for 5 minutes before adding 3-chlorophenylisothiocyante (1 eq., 8.54 mL) dropwise, then stirred until complete by TLC (absence of 3-chlorophenylisothiocyanate, 3 hrs). Added methyl iodide (1 eq., 3.136 mL) dropwise, then stirred until intermediate was fully consumed (absent on TLC, 18 hrs); poured into 500 mL ice water, then filtered resulting solution to 2-(((3-chlorophenyl)amino)(methylthio)methylene)malononitrile as a white powder.

reactant | malononitrile | 3.328 g | C(CC#N)#N | C3H2N2
reactant | 3-chlorophenylisothiocyanate | ClC=1C=C(C=CC1)N=C=S | C7H4ClNS
reactant | methyl iodide | 3.136 mL, 1 eq. | CI | CH3I
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | 2-(((3-chlorophenyl)amino)(methylthio)methylene)malononitrile | ClC=1C=C(C=CC1)NC(SC)=C(C#N)C#N | C11H8ClN3S
